US08710077B2
Bicyclo[3.3.1]nonan-2,6-dione-monoethylene ketal (97)
5 g of bicyclo[3.3.1]nonane-2,6-dione were suspended in 27 mL of dry ethylene glycol and 283 mg of p toluene sulfonic acid were added. After 2 h all starting material was converted. 80 mL of water were added and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and sat. sodium bicarbonate, dried over sodium sulfate and evaporated to dryness. The crude product was purified by silica gel chromatography to give 0.5 g of the desired product along with 6.75 g of the diketal. The diketal was dissolved in 135 mL of acetone and 13.5 mL of 2M HCl were added. The mixture was allowed to stir at room temperature for 1 h. The mixture was neutralized by addition of 2 N NaOH, the acetone was removed in vacuo and the remaining aqueous layer was extracted with ethyl acetate and dichloromethane. The organic layer was dried over sodium sulfate and evaporated to dryness. The crude product was purified by chromatography to give another 4.38 g of the desired product. Rt=0.84 min (Method C). Detected mass: 197.2 (M+H+).

reactant | bicyclo[3.3.1]nonane-2,6-dione | 5 g | C12C(CCC(C(CC1)=O)C2)=O | C9H12O2
reactant | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 80 mL | O | H2O
solvent | ethylene glycol | 27 mL | C(CO)O | C2H6O2
product | Bicyclo[3.3.1]nonan-2,6-dione-monoethylene ketal | 0.5 g | C1COC2(C3CCC(C(CC2)C3)=O)O1 | C11H16O3
